US06984657B1
N-(3-methoxy-4-chlorobenzyl)-5-hydroxyindole-2-carboxylic Acid
Sodium hydroxide (2M, 1.9 ml) was added to a stirred solution of ethyl N-(3-methoxy-4-chlorobenzyl)-5-acetoxyindole-2-carboxylate (305 mg) in methanol (3 ml) and THF (3 ml). The reaction was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo and then diluted with water (5 ml). The solution was acidified by the addition of aqueous hydrochloric acid (2M), extracted with ethyl acetate, dried and evaporated. The residue was purified by column chromatography eluting 20%-100% ethyl acetate to give the desired product as a solid (177 mg, 70%) NMR (CD3SOCD3): d 3.95 (s, 3H), 5.95 (s, 2H), 6.35 (d, 1H), 6.8 (dd, 1H), 6.9 (d, 1H), 7.0 (d, 1 μl), 7.1 (s, 1H), 7.25 (d, 1H), 7.3 (d, 1H), 9.0 (s, 1H); m/z 332 (M+H+).

reactant | Sodium hydroxide | 2M, 1.9 ml | [OH-].[Na+]
reactant | ethyl N-(3-methoxy-4-chlorobenzyl)-5-acetoxyindole-2-carboxylate | 305 mg | COC=1C=C(CN2C(=CC3=CC(=CC=C23)OC(C)=O)C(=O)OCC)C=CC1Cl | C21H20ClNO5
solvent | methanol | 3 ml | CO | CH4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(3-methoxy-4-chlorobenzyl)-5-hydroxyindole-2-carboxylic Acid | 177 mg, 70% | COC=1C=C(CN2C(=CC3=CC(=CC=C23)O)C(=O)O)C=CC1Cl | C17H14ClNO4
